US03939169
A solution of hexamethylene di-isocyanate (1.68g.) in toluene (10ml.) was added to a solution of 3-aminopyridine (1.88g.) in toluene (18ml.) and the mixture was heated on a steam-bath for 10 minutes. The mixture was cooled, and the product was filtered off, washed with toluene and dried, to give 1,6-bis[3-(pyrid-3-yl)ureido]hexane, m.p. 197°-199°C., the starting material for compound 67.

reactant | hexamethylene di-isocyanate | 1.68g | C(CCCCCN=C=O)N=C=O | C8H12N2O2
reactant | 3-aminopyridine | 1.88g | NC=1C=NC=CC1 | C5H6N2
solvent | toluene | 10ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 18ml | C1(=CC=CC=C1)C | C7H8
product | 1,6-bis[3-(pyrid-3-yl)ureido]hexane | N1=CC(=CC=C1)NC(NCCCCCCNC(=O)NC=1C=NC=CC1)=O | C18H24N6O2
